US05703109
1-[1-(4-cyanophenyl)-3-(4-fluorophenyl)propyl]-1H-imidazole is prepared according to the same procedure using 1-chloro-1-(4-cyanophenyl)-3-(4-fluorophenyl)propane and 1H-imidazole sodium derivative as starting materials.

reactant | 1-chloro-1-(4-cyanophenyl)-3-(4-fluorophenyl)propane | ClC(CCC1=CC=C(C=C1)F)C1=CC=C(C=C1)C#N | C16H13ClFN
reactant | 1H-imidazole sodium | [Na].N1C=NC=C1
product | 1-[1-(4-cyanophenyl)-3-(4-fluorophenyl)propyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)N1C=NC=C1 | C19H16FN3
